US05840911
A mixture of 157 mg (1.0 mmol) of 4-cyano-2,3-dihydro-1H-inden-1-one [Coll. Czechoslov. Chem. Commun. 43, 3227 (1978)] and 139 mg (2.0 mmol) of hydroxylamine hydrochloride in 4 ml of ethanol is stirred at 80° C. for 1.5 hours and cooled in an ice-water bath. The product that has crystallized out is filtered off with suction, washed with cold ethanol and diethyl ether and dried. In that manner there is obtained the intermediate 4-cyano-2,3-dihydro-1H-inden-1-one oxime, which melts at 200°-202° C. with decomposition; 1H-NMR (DMSO): δ=11.22 (s, 1H); 7.84 (d, 1H); 7.81 (d, 1H); 7.45 (t, 1H); 3.15 (t, 2H); 2.84 (t, 2H).

reactant | 4-cyano-2,3-dihydro-1H-inden-1-one | 1.0 mmol, 157 mg | C(#N)C1=C2CCC(C2=CC=C1)=O | C10H7NO
reactant | hydroxylamine hydrochloride | 2.0 mmol, 139 mg | Cl.NO
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 4-cyano-2,3-dihydro-1H-inden-1-one oxime | C(#N)C1=C2CCC(C2=CC=C1)=NO | C10H8N2O
